data/oMe_Silver.jsonl
{"reaction_id": "NR-223_1-c1ccc(OC)cc1_2-c1ccc(OC)cc1_3-c1ccc(C(F)(F)F)cc1_4-c1ccc(OC)cc1","level": "medium","name": "Pinacol Rearrangement","reactants_smiles": ["C(c1ccc(OC)cc1)(c1ccc(OC)cc1)(O)C(O)(c1ccc(C(F)(F)F)cc1)(c1ccc(OC)cc1)"],"products_smiles": ["C(=O)(c1ccc(OC)cc1)C(c1ccc(OC)cc1)(c1ccc(C(F)(F)F)cc1)(c1ccc(OC)cc1)"],"conditions": "H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(OC)cc1)(c1ccc(OC)cc1)(O)C([OH2+])(c1ccc(C(F)(F)F)cc1)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "Protonation of the hydroxyl group increases its leaving group ability by converting OH into water, aided by the acidic medium."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(c1ccc(OC)cc1)(c1ccc(OC)cc1)(O)[C+](c1ccc(C(F)(F)F)cc1)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "Water departs as a neutral, stable molecule, generating a carbocation stabilized by adjacent oxygen through inductive and resonance effects."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=O)(c1ccc(OC)cc1)C(c1ccc(OC)cc1)(c1ccc(C(F)(F)F)cc1)(c1ccc(OC)cc1)","step_weight": 0,"rationale": "A 1,2-alkyl shift occurs to form a more stable carbocation adjacent to oxygen, enabling resonance stabilization and subsequent ketone formation."}],"description": "Under acidic aqueous conditions, the diol undergoes protonation to activate one hydroxyl group, followed by loss of water to generate a carbocation. A 1,2-alkyl shift then stabilizes the cation via resonance with the adjacent oxygen, yielding the rearranged ketone."}
{"reaction_id": "NR-115_10-C_1-C_2-C(C)(C)C_3-c1ccc(C(F)(F)F)cc1_4-C1CC1_5-CC_6-SC_7-c1ccccc1_8-C_9-C","level": "medium","name": "Ireland-Claisen Rearrangement","reactants_smiles": ["C(=C(c1ccc(C(F)(F)F)cc1)C(O/C(=C(/SC)c1ccccc1)/O[Si](C)(C)(C))(CC)C1CC1)(C)C(C)(C)C"],"products_smiles": ["C(=C(c1ccc(C(F)(F)F)cc1)C(C(C(=O)O[Si](C)(C)(C))(c1ccccc1)SC)(CC)C1CC1)(C)C(C)(C)C"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=C(c1ccc(C(F)(F)F)cc1)C(C(C(=O)O[Si](C)(C)(C))(c1ccccc1)SC)(CC)C1CC1)(C)C(C)(C)C","step_weight": 0,"rationale": "Thermal activation enables a concerted [3,3]-sigmatropic shift via a six-membered transition state, favored by the stability of the resulting carbonyl and relief of allylic strain in the silyl ketene acetal."}],"description": "Upon heating, the silyl ketene acetal undergoes a [3,3]-sigmatropic Ireland–Claisen rearrangement, shifting the allyl group to form a new C–C bond adjacent to the carbonyl. The process is thermally allowed and driven by the formation of a more stable, conjugated carbonyl system."}
